US07534894B2
Triethylamine (786 μL, 5.64 mmol) and di-tert-butyl dicarbonate were added to a solution of 4′-amino-biphenyl-4-ol (0.5 g, 1.88 mmol), prepared in step 4 of Example 13, in DMF. After the addition the reaction stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue partitioned between water and ethyl acetate. The aqueous layer was separated and extracted multiple times with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4) and the solvent removed under reduced pressure to give (4′-hydroxy-biphenyl-4-yl)-carbamic acid tert-butyl ester. The material was used in subsequent reactions without purification.

reactant | Triethylamine | 5.64 mmol, 786 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4′-amino-biphenyl-4-ol | 1.88 mmol, 0.5 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | (4′-hydroxy-biphenyl-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=CC=C(C=C1)O)=O | C17H19NO3
